US06066644
1'-(2-Hydroxyethyl)-5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
A stirred solution of 5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E17 in WO 96/19477, 1.5 g, 2.9 mmole) in ethanol (30 ml) was treated with sodium carbonate (1.2 g, 11.6 mmole) and 2-bromoethanol (0.41 ml, 5.8 mmole) and heated under reflux for 20 hours. The reaction mixture was concentrated in vacuo and the residue treated with water (10 ml) and extracted with chloroform. The extract was dried (Na2SO4), concentrated in vacuo and the residue chromatographed on silica gel eluting with 0-6% methanol/chloroforn to afford the title compound as a yellow solid (0.9 g, 56%). This was converted to its hydrochloride salt and crystallised from acetone m.p. >250° C.

reactant | 5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 2.9 mmole, 1.5 g | CC1=C(C=CC(=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCNCC1)CO3 | C31H30N4O3
reactant | sodium carbonate | 11.6 mmole, 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromoethanol | 5.8 mmole, 0.41 ml | BrCCO | C2H5BrO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1'-(2-Hydroxyethyl)-5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 0.9 g, 56% | OCCN1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C=1OC(=NN1)C)C | C33H34N4O4
